US07772395B2
2-Methoxymethylaniline (0.68 g, 4.96 mmol) was dissolved in dichloromethane (50 ml) and the solution was cooled to −70° C. To the cooled solution a solution of tert-butyl hypochlorite (0.54 g, 4.96 mmol) in dichloromethane (1 ml) was added dropwise and the solution was stirred at −70° C. for 10 minutes. To the obtained reaction solution a solution of 2-methylthiomethyl-4,6-dimethoxypyrimidine (0.893 g, 4.46 mmol) in dichloromethane (5 ml) was added dropwise and the solution was stirred at −70° C. for 30 minutes. To the obtained reaction solution a 28% methanol solution of sodium methoxide (4 ml) was added and the solution was stirred until its temperature reached room temperature. Water was added to the reaction solution and the organic layer was separated. The water layer was further extracted twice with dichloromethane. The organic layer was washed with water and dried. Then dichloromethane was distilled off under reduced pressure and the obtained oily substance was purified by column chromatography using 1:6 mixed solvent of ethyl acetate and hexane as eluent to obtain 2-[(4,6-dimethoxypyrimidin-2-yl)-methylthiomethyl]-6-methoxymethylaniline (0.88 g, yield 53%) as oily substance;

reactant | 2-Methoxymethylaniline | 4.96 mmol, 0.68 g | COCC1=C(N)C=CC=C1 | C8H11NO
reactant | tert-butyl hypochlorite | 4.96 mmol, 0.54 g | ClOC(C)(C)C | C4H9ClO
reactant | 2-methylthiomethyl-4,6-dimethoxypyrimidine | 4.46 mmol, 0.893 g | CSCC1=NC(=CC(=N1)OC)OC | C8H12N2O2S
reactant | sodium methoxide | 4 ml | C[O-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | methanol | CO | CH4O
product | 2-[(4,6-dimethoxypyrimidin-2-yl)-methylthiomethyl]-6-methoxymethylaniline | 0.88 g, yield 53% | COC1=NC(=NC(=C1)OC)C(C1=C(N)C(=CC=C1)COC)SC | C16H21N3O3S
